US07592363B2
Preparation of 4-[4-(2-benzyl-7-trifluoromethyl-2H-indazol-3-yl)-phenoxy]-benzoic acid methyl ester
4-(2-Benzyl-7-trifluoromethyl-2H-indazol-3-yl)-phenol (180 mg, 0.5 mmol), cesium carbonate (490 mg, 1.5 mmol), CuI (20 mg, 0.1 mmol) and 4-bromo-benzoic acid methyl ester (215 mg, 1.0 mmol) were dissolved in 3 ml of dry pyridine. The reaction mixture was run in microwave (Emory's Optimizer, Personal Chemistry) at 200° C. for 30 min. After cooling to room temperature, the reaction mixture was diluted with 1 M HCl (aq.) and the product extracted three times with CH2Cl2. Combined organic phases were dried and evaporated, and the crude material was purified with preparative HPLC using a gradient with an acidic mobile phase on an ACE-C8 column to afford 151 mg of analytically pure product.

reactant | 4-(2-Benzyl-7-trifluoromethyl-2H-indazol-3-yl)-phenol | 0.5 mmol, 180 mg | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C1=CC=C(C=C1)O)C(F)(F)F | C21H15F3N2O
reactant | cesium carbonate | 1.5 mmol, 490 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-bromo-benzoic acid methyl ester | 1.0 mmol, 215 mg | COC(C1=CC=C(C=C1)Br)=O | C8H7BrO2
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | HCl | 1 M | Cl | ClH
catalyst | CuI | 0.1 mmol, 20 mg | [Cu]I
product | 4-[4-(2-benzyl-7-trifluoromethyl-2H-indazol-3-yl)-phenoxy]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)OC1=CC=C(C=C1)C=1N(N=C2C(=CC=CC12)C(F)(F)F)CC1=CC=CC=C1)=O | C29H21F3N2O3
